US08003806B2
(b) 1-[1-(3-Methoxy-3-oxo-1-phenylpropyl)-1H-benzimidazol-4-yl]-4-piperidinecarboxylic acid
To a solution of 1-{3-[(3-methoxy-3-oxo-1-phenylpropyl)amino]-2-nitrophenyl}-4-piperidinecarboxylic acid (696 mg, 1.63 mmol) in ethanol (5 mL) was added Raney-Nickel (catalytic, ca. 5 mg) and hydrazine hydrate (316 μL, 6.52 mmol). The solution was stirred at room temperature for 3 hours, filtered, and evaporated in vacuo. The residue (560 mg) was dissolved in triethylorthoformate (5 mL), and heated at 60° C. for 0.5 hour. The resulting solution was cooled to room temperature, and evaporated in vacuo. The residue was purified by flash column chromatography on silica gel, eluting with a mixture of dichloromethane and methanol (92:8) to afford the title compound, 1H NMR: (CD3OD) 8.27 (s, 1H), 7.34-7.28 (m, 5H), 7.10 (t, J=8.06, 1H), 6.99 (br d, J=8.06, 1H), 6.68 (d, J=8.06, 1H), 6.08 (dd, J=9.16, 6.22, 1H), 3.95-3.91 (m, 2H), 3.59 (obs dd, J=16.11, 9.16, 1H), 3.59 (s, 3H), 3.45 (dd, J=16.11, 6.22, 1H), 2.86-2.80 (m, 2H), 2.47-2.43 (m, 1H), 2.06-1.98 (m, 4H).

reactant | 1-{3-[(3-methoxy-3-oxo-1-phenylpropyl)amino]-2-nitrophenyl}-4-piperidinecarboxylic acid | 1.63 mmol, 696 mg | COC(CC(C1=CC=CC=C1)NC=1C(=C(C=CC1)N1CCC(CC1)C(=O)O)[N+](=O)[O-])=O | C22H25N3O6
reactant | hydrazine hydrate | 6.52 mmol, 316 μL | O.NN
reactant | ethanol | 5 mL | C(C)O | C2H6O
catalyst | Raney-Nickel | ca. 5 mg | [Ni] | Ni
product | 1-[1-(3-Methoxy-3-oxo-1-phenylpropyl)-1H-benzimidazol-4-yl]-4-piperidinecarboxylic acid | COC(CC(C1=CC=CC=C1)N1C=NC2=C1C=CC=C2N2CCC(CC2)C(=O)O)=O | C23H25N3O4
